data/pmechdb/original/mc_train_fold0/raw/train.txt
COC1=CC=C(C=C1)[C:10](C2=CC=CC=C2)(C3=CC=C(C=C3)OC)[OH+:11]CC4C(CCO4)OC(=O)CN.C(=O)(C(Cl)(Cl)Cl)[O-]>>COC1=CC=C(C=C1)[C+:10](C2=CC=CC=C2)C3=CC=C(C=C3)OC.C1COC(C1OC(=O)CN)C[OH:11].C(=O)(C(Cl)(Cl)Cl)[O-] 10,11=11
CC1CCC2C(C(OC3C24C1CCC(O3)(OO4)C)C=[C+:20][CH2:10][Si-:11](C)(C)(C)OC(=[O+][Zn-](Cl)Cl)C5=CC=CC=C5)C>>CC1CCC2C(C(OC3C24C1CCC(O3)(OO4)C)C=[C:20]=[CH2:10])C.C[Si:11](C)(C)OC(=[O+][Zn-](Cl)Cl)C1=CC=CC=C1 10,11=10,20
[H:20][NH3+:21].C(C=CC[O-:10])O>>[H:20][O:10]CC=CCO.[NH3:21] 10=20;20,21=21
C[NH+:21]=[C:20]1OCCO1.[OH2:10]>>C[NH:21][C:20]1(OCCO1)[OH2+:10] 10=20;20,21=21
[CH:20](O)([OH:10])[SH2+:21]>>[CH:20](=[OH+:10])O.[SH2:21] 10=20;20,21=21
[Li+:20].CCCC[Br-:11][C:10]1=CC=C(C=C1)C(=O)OC(C)(C)C>>[Li:20][C:10]1=CC=C(C=C1)C(=O)OC(C)(C)C.CCCC[Br:11] 10,11=10,20
[H:20][C:21]1(C=CC=C[C+:22]1OC=C)C(C)OC2=CC=CC=C2.[F-:10]>>[H:20][F:10].CC([C:21]1=[C:22](C=CC=C1)OC=C)OC2=CC=CC=C2 10=20;20,21=21,22
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22]1=[C:21](C2=C(C=CC=C2)C=C1)S(=O)(=O)O 10=20;20,21=21,22
CC1(CC2C1CC[C:20](=[O+:21]C)C3CCC2(C3)C)C.[OH2:10]>>CC1(CC2C1CC[C:20](C3CCC2(C3)C)([OH2+:10])[O:21]C)C 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)C#N.[Br:20][Br:21]>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[Br:20])C#N.[Br-:21] 10,11=10,20;20,21=21
[H:20][OH+:21]CC.C1C(=[N:10]1)C2=CC=CN=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-]>>[H:20][N+:10]1=C(C1)C2=CC=CN=C2.CC[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-] 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Ti]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Ti] 10=20,
[B:20]1(OC2CC3CC(C3(C)C)C2(O1)C)C(C=C)Cl.C[Si](C)(C)[CH2:10][Mg:11]Br.[Li+].[Cl-]>>[B-:20]1(OC2CC3CC(C3(C)C)C2(O1)C)([CH2:10][Si](C)(C)C)C(C=C)Cl.[Mg+:11]Br.[Li+].[Cl-] 10,11=10,20
C1CN(C(C[C:20]1=[O+:21]CCO)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.[OH2:10].CCO.[Cl-]>>C1CN(C(C[C:20]1([OH2+:10])[O:21]CCO)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.[Cl-] 10=20;20,21=21
B1(OC2=C(O1)C=CC=C2)C=C3C4=C(C=CC=C4)[C:22](=[O+:23]3)[O:21][CH3:20].[Cl-:10]>>B1(OC2=C(O1)C=CC=C2)C=C3C4=C(C=CC=C4)[C:22](=[O:21])[O:23]3.[CH3:20][Cl:10] 10=20;22,23=23;20,21=21,22
CC(C)(C)OC(=O)N(C)CCC1=C(C=C(C(=C1)[O:10]C)OC)I.[AlH3:20]>>CC(C)(C)OC(=O)N(C)CCC1=C(C=C(C(=C1)[O+:10](C)[AlH3-:20])OC)I 10=20,
C1=CC=[N+](C=C1)[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F.COC1=C2C(=CC=C1)C3=CC=CC=C3N2C(CO)C4=CC=CC=C4>>C(F)(F)(F)S(=O)(=O)[O-:21].C1=CC=[N+](C=C1)[S:20](=O)(=[O:10])C(F)(F)F.COC1=C2C(=CC=C1)C3=CC=CC=C3N2C(CO)C4=CC=CC=C4 10=20;20,21=21
[H:20][O:21]C(=O)C1=C(CSC2N1C(=O)C2NC(=O)CC3=CC=CC=C3)C=C.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)OC(=O)C(CO)NC(=O)OC(C)(C)C>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C=CC1=C(N2C(C(C2=O)NC(=O)CC3=CC=CC=C3)SC1)C(=O)[O-:21].CC(C)OC(=O)C(CO)NC(=O)OC(C)(C)C 10=20;20,21=21
C[S:20][Br:21].[OH2:10]>>C[S:20][OH2+:10].[Br-:21] 10=20;20,21=21
CCN(CC)[C:20](=[OH+:21])C.[OH2:10]>>CCN(CC)[C:20](C)([OH2+:10])[OH:21] 10=20;20,21=21
C1=CC=C(C=C1)C=CCO[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[Br:11].C1CCOC1.C(Br)(Br)Br>>C1=CC=C(C=C1)C=CCO[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:11].C1CCOC1.C(Br)(Br)Br 10,11=11
C1C2C[C:11]([CH:10]1C=C2)([CH2:20][N+:21]#N)[O-:12]>>C1C2C[C:11](=[O:12])[CH2:20][CH:10]1C=C2.N#[N:21] 10,11=10,20;20,21=21;12=11
C[C:20]([NH:10]CCC1=CC(=CC=C1)OC)([O:21]P(=O)(Cl)Cl)Cl>>C[C:20](=[NH+:10]CCC1=CC(=CC=C1)OC)Cl.[O-:21]P(=O)(Cl)Cl 10=20;20,21=21
[H:20][Br:21].CC[OH:10]>>[H:20][OH+:10]CC.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C)(C#N)[O-:10]>>[H:20][O:10]C(C)(C)C#N.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC12CCC3C(C14C[CH2:10][C:11]2([CH+:20]C4)[OH:12])CCC5=C3C=CC(=C5)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC12CCC3C(C14C[CH2:10][CH:20](C4)[C:11]2=[OH+:12])CCC5=C3C=CC(=C5)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20;12=11
C1[CH:20]=[NH+:21]C2=C1C=CC=C2.C1=CC2=C(C=C1)[NH:12][CH:11]=[CH:10]2.C(=O)(C(F)(F)F)[O-]>>C1[CH:20]([NH:21]C2=C1C=CC=C2)[CH:10]3[CH:11]=[NH+:12]C4=C3C=CC=C4.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
[H:10][C:11]1(CCC(CC1C2CCCCC2)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C2CCCCC2)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
O[P:10](O)(O)(O)[I:11]>>O[P+:10](O)(O)O.[I-:11] 10,11=11
CO[C:20](N)([O-:10])[Cl:21]>>CO[C:20](=[O:10])N.[Cl-:21] 10=20;20,21=21
CN1C2C[C+:20](CCC2(CC1=O)C3=CC(=C(C=C3)OC)OC)[CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C.CC[NH+](CC)CC.[Cl-]>>CN1C2C[C:20](=[CH2:10])CCC2(CC1=O)C3=CC(=C(C=C3)OC)OC.C[Si:11](C)(C)OS(=O)(=O)C.CC[NH+](CC)CC.[Cl-] 10,11=10,20
[H:10][C:11]1(CCC(CC1)CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1)CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3C6=CC=CC=C6)O)N.[OH-:10].C(COCCO)O.O>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4C6=CC=CC=C6)C(O2)C(=[N:21]N)CC5)O)C=C1.C(COCCO)O.O 10=20;20,21=21
